US07074800B1
Sodium hydride (1.8 g, of a 60% dispersion in oil, 45 mmol) was added in portions to a stirred solution of benzyl alcohol (10.8 g, 100 mmol) in DMA (100 ml) with vigorous stirring under an atmosphere of nitrogen at ambient temperature. After warming to 45° C. for 30 minutes the mixture was cooled to ambient temperature and added dropwise to a stirred solution of 2-chloro-5-nitro-trifluoromethylbenzene (11.3 g, 50 mmol) in DMA (30 ml), keeping the temperature below 110° C. The mixture was stirred at 25° C. for 1 hour, then acidified with acetic acid and evaporated to give a yellow solid. The residue was dissolved in dichloromethane, washed with water then dried (MgSO4), and evaporated. The residue was suspended in a mixture of hexane (70 ml) and diethyl ether (10 ml) and the resulting solid filtered off to give 2-benzyloxy-5-nitro-trifluoromethylbenzene (6.6 g, 49%).

reactant | Sodium hydride | [H-].[Na+]
reactant | benzyl alcohol | 100 mmol, 10.8 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-chloro-5-nitro-trifluoromethylbenzene | 50 mmol, 11.3 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMA | 100 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 30 ml | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-benzyloxy-5-nitro-trifluoromethylbenzene | 6.6 g, 49% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C14H10F3NO3
